US07893048B2
[4-((2R,3R)-1-(4-fluorophenyl)-4-oxo-3-{[2-oxo-2-(5,6,7,8-tetrahydronaphthalen-2-yl)ethyl]thio}azetidin-2-yl)phenoxy]acetic acid
The titled compound above was prepared using the same procedure as that used for the synthesis of {4-[(2R,3R)-3-{[2-(2,3-dihydro-1H-inden-5-yl)-2-oxoethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid but using 2-bromo-1-(5,6,7,8-tetrahydronaphthalen-2-yl)ethanone instead of 2-bromo-1-(2,3-dihydro-1H-inden-5-yl)ethanone. 1H NMR [(CD3)2SO), 400 MHz]δ 1.66-1.75 (m, 4H), 2.66-2.77 (m, 4H), 4.22-4.31 (m, 3H), 4.62 (s, 2H), 5.11 (d, 1H), 6.86-7.61 (m, 11H).

reactant | {4-[(2R,3R)-3-{[2-(2,3-dihydro-1H-inden-5-yl)-2-oxoethyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetic acid | C1CCC2=CC(=CC=C12)C(CS[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)O)C=C1)=O | C28H24FNO5S
reactant | 2-bromo-1-(5,6,7,8-tetrahydronaphthalen-2-yl)ethanone | BrCC(=O)C1=CC=2CCCCC2C=C1 | C12H13BrO
product | [4-((2R,3R)-1-(4-fluorophenyl)-4-oxo-3-{[2-oxo-2-(5,6,7,8-tetrahydronaphthalen-2-yl)ethyl]thio}azetidin-2-yl)phenoxy]acetic acid | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(C1=CC=2CCCCC2C=C1)=O)C1=CC=C(OCC(=O)O)C=C1 | C29H26FNO5S
